US03976638
iv. 9-Fluoro-11β-hydroxypregna-1,4,16-triene-3,20-dione
A solution of 1.8 g of 9-fluoro-21-iodo-11β-hydroxypregna-1,4,16-triene-3,20-dione in 135 ml of dioxane is stirred with 90 ml of 5% sodium bisulfite at 105°C under nitrogen for 1.5 hours. The solution is cooled, poured into water, stirred for 30 minutes and filtered. The solid is washed with water and dried in a vacuum oven at 60°C over phosphorous pentoxide to give 780 mg of material. Crystallization from chloroform-methanol gives 420 mg of the title compound, melting point 327°-328°C.

reactant | 9-fluoro-21-iodo-11β-hydroxypregna-1,4,16-triene-3,20-dione | 1.8 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C(C(CI)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H24FIO3
reactant | sodium bisulfite | 90 ml | S([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | dioxane | 135 ml | O1CCOCC1 | C4H8O2
product | 9-Fluoro-11β-hydroxypregna-1,4,16-triene-3,20-dione | 780 mg | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C(C(C)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H25FO3
